datasets/RMG-dataset.csv
rxn,Ea
[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10].[C:11]1([H:16])[C:12]([H:17])=[C:13]([H:18])[C:14]([H:19])=[C:15]1[H:20]>>[C:0]1([H:5])[C:1]([H:6])([C:11]2([H:16])[C:12]([H:17])=[C:13]([H:18])[C:14]([H:19])=[C:15]2[H:20])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10],13.8072
[C:0]([C:1]([C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:9])[H:10])([H:7])[H:8]>>[C:0](=[C:1]([H:9])[H:10])([H:7])[H:8].[C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15],58.1576
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]1[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:19][O:30],4.64424
[O:0]([C:1]([O:2][H:5])=[S:3])[H:4]>>[O:0]=[C:1]([O:2][H:5])[S:3][H:4],121.25232
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27],23.012
[C:0]([O:1][O:2][H:6])([H:3])([H:4])[H:5].[C:7]([H:8])([H:9])[H:10]>>[C:0]([O:1][C:7]([H:8])([H:9])[H:10])([H:3])([H:4])[H:5].[O:2][H:6],57.1003
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([O:7][O:8][H:19])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([O:7][O:8][H:19])([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[O:5]1.[O:6][H:18],47.2792
[H:0].[O:1][C:2]1([H:7])[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])=[C:6]1[H:11]>>[H:0][H:7].[O:1]=[C:2]1[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])=[C:6]1[H:11],0.0
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[H:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][H:14],28.267104
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([H:24])[H:25])[H:23])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10].[C:26](=[O:27])[H:28]>>[C-:26]#[O+:27].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([H:24])[H:25])[H:23])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])([H:10])[H:28],0.0
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5][H:22])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])[H:23])([H:19])([H:20])[H:21],74.0568
[N:0](=[C:1]=[O:2])[H:3].[O:4][H:5]>>[H:3][O:4][H:5].[N:0]=[C:1]=[O:2],78.7136
[C:0]([C:1](=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[O:12][H:13]>>[C:0]([C:1](=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])([H:6])[O:12][H:13],0.0
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[c:7]1([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18]>>[C:0](=[C:1]([C:2](=[S:3])[H:13])[H:6])([H:4])[H:5].[c:7]1[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18],92.8848
[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[S:6]([c:7]1[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18])[H:13]>>[C:0]([C:1](=[S:2])[H:13])([H:3])([H:4])[H:5].[S:6][c:7]1[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18],-5.4392
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[c:23]1[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]([H:32])[c:28]1[H:33]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[c:23]1[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]([H:32])[c:28]1[H:33])[H:14])[H:13])([H:11])[H:12],1.71544
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:19])[H:9])([H:7])[H:8],3.93296
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:6])([H:4])[H:5].[H:13]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])[H:5].[H:6][H:13],0.0
